US07645771B2
To a precooled (0° C.) solution of phenyl N-cyano-4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidine-1-carboximidoate (27 mg, 0.047 mmol) in a mixed solvent of THF-H2O (2 mL, 3:1) was added lithium hydroxide monohydrate (7.7 mg, 0.18 mmol). After stirring for 3 hours on an ice-water bath, the reaction mixture was diluted with dichloromethane (20 mL) and buffered with saturated sodium bicarbonate solution (10 mL). The aqueous phase was extracted with dichloromethane (3×10 mL). The combined extracts were washed with brine and dried over anhydrous sodium sulfate. After evaporation of solvents, the residue was purified by flash chromatography on silical gel, eluting with a gradient of 10-30% methanol in ethyl acetate to afford N-cyano-4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidine-1-carboxamide as a white solid (20 mg, 83%). 1H NMR (400 MHz, DMSO-d6) δ 7.46 (d, J=7.1 Hz, 1H), 7.33-7.29 (m, 5H), 7.17-7.14 (m, 1H), 7.11-7.04 (m, 2H), 4.53-4.48 (m, 1H), 4.09 (br, 1H), 3.55-3.51 (m, 2H), 3.21 (br, 2H), 3.06-3.03 (m, 2H), 2.45 (s, 3H), 2.37-2.29 (m, 2H), 1.87-1.64 (m, 10H), 1.59-1.55 (m, 4H). 13C NMR (125 MHz, DMSO-d6) δ 165.0, 152.3, 146.7, 143.7, 134.0, 128.9, 127.3, 126.2, 125.0, 121.8, 121.4, 119.4, 111.6, 57.2, 55.6, 49.3, 48.0, 46.3, 36.3, 35.9, 30.0, 21.8, 14.9. HRMS m/z (M+H)+ calcd: 497.3029, obsd: 497.3026.

reactant | phenyl N-cyano-4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidine-1-carboximidoate | 0.047 mmol, 27 mg | C(#N)N=C(OC1=CC=CC=C1)N1CCC(CC1)(C1=CC=CC=C1)CCN1C2CC(CC1CC2)N2C(=NC1=C2C=CC=C1)C | C36H40N6O
reactant | THF H2O | 2 mL | C1CCOC1.O
reactant | lithium hydroxide monohydrate | 0.18 mmol, 7.7 mg | O.[OH-].[Li+]
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-cyano-4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidine-1-carboxamide | 20 mg, 83% | C(#N)NC(=O)N1CCC(CC1)(C1=CC=CC=C1)CCN1C2CC(CC1CC2)N2C(=NC1=C2C=CC=C1)C | C30H36N6O
